US04176116
1.75 g (0.0065 mol) of L-alanyl-L-alanine ethylamide hydrobromide were dissolved in 40 ml of pyridine and 4.2 ml (0.013 mol) of propionic anhydride were added. The solution was stirred for 1 hour at room temperature and then the pyridine was removed by evaporation. The resulting solid was recrystallised from ethanol. The yield of N-propionyl-L-alanyl-L-alanine ethylamide obtained was 1.15 g (72.5%); melting point 289°-291° C.; [α]D20 =-76.7° (c=0.95% in methanol).

reactant | L-alanyl-L-alanine ethylamide hydrobromide | 0.0065 mol, 1.75 g | Br.C(C)NC([C@@H](NC([C@@H](N)C)=O)C)=O
reactant | propionic anhydride | 0.013 mol, 4.2 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | N-propionyl-L-alanyl-L-alanine ethylamide | C(C)NC([C@@H](NC([C@@H](NC(CC)=O)C)=O)C)=O | C11H21N3O3
